US05874642
Preparation of 2,2'-bis(phenoxymethyl)biphenyl
A mixture of 25.0 g (73.5 mmol) of 2,2'-bis(bromomethyl)biphenyl, 14.2 g (151 mmol) of phenol, 14.7 g (261 mmol) of pulverized potassium hydroxide and 3.41 g (15 mmol) of triethylbenzylammonium chloride is admixed with 120 ml of dichloromethane and stirred for 5 hours at 40° C.

reactant | 2,2'-bis(bromomethyl)biphenyl | 73.5 mmol, 25.0 g | BrCC1=C(C=CC=C1)C1=C(C=CC=C1)CBr | C14H12Br2
reactant | phenol | 151 mmol, 14.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 261 mmol, 14.7 g | [OH-].[K+]
catalyst | triethylbenzylammonium chloride | 15 mmol, 3.41 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 2,2'-bis(phenoxymethyl)biphenyl | O(C1=CC=CC=C1)CC1=C(C=CC=C1)C1=C(C=CC=C1)COC1=CC=CC=C1 | C26H22O2
